US05945502
1,4-Bis(hydroxymethyl)-2,3-di(4-fluorophenyl)-benzene:
A 100 mL 3 neck round-bottom flask equipped with a condenser and an addition funnel was flushed with nitrogen and then loaded with diethyl-2,3-di(4-fluorophenyl)-1,4-benzenedicarboxylate (1.22 g, 2.98 mmol) in anhydrous THF (25 mL). Lithium aluminum hydride (1.0 M in THF, 11.4 mL, 11.4 mmol) was then added dropwise via the addition funnel to the reaction mixture and the mixture was then refluxed overnight. The mixture was cooled to room temperature and the excess lithium aluminum hydride was destroyed by dropwise addition of water. 15% NaOH (1 mL) was then added followed by more water (3 mL). The mixture was filtered and the solvent was removed by rotary evaporation. The product was then dissolved in chloroform and filtered. Removal of the chloroform gave a white solid (0.45 g, 46% yield).

reactant | diethyl-2,3-di(4-fluorophenyl)-1,4-benzenedicarboxylate | 2.98 mmol, 1.22 g | C(C)OC(=O)C1=C(C(=C(C=C1)C(=O)OCC)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C24H20F2O4
reactant | Lithium aluminum hydride | 11.4 mmol, 1.0 M, 11.4 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1,4-Bis(hydroxymethyl)-2,3-di(4-fluorophenyl)-benzene | 0.45 g, 46% yield | OCC1=C(C(=C(C=C1)CO)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C20H16F2O2
